US08252723B2
Prop-2-yn-1-yl [3-methyl-1-(4-methylpyridin-3-yl)-5-phenyl-1H-pyrazol-4-yl]acetate (see Table 3, Example 3-76)
0.445 g (6.345 mmol) of prop-2-yn-1-ol and a drop of concentrated sulfuric acid were added to 0.130 g (0.423 mmol) of [3-methyl-1-(4-methylpyridin-3-yl)-5-phenyl-1H-pyrazol-4-yl]acetic acid, and the mixture was stirred under reflux for 4 h. The solvent was removed under reduced pressure, a mixture of 10 ml of dichloromethane, 1.5 ml of diisopropylethylamine and 10 ml of water was added to the residue and the aqueous phase was extracted with 15 ml of dichloromethane. The combined organic phases were dried over sodium sulfate, and the solvent was removed under reduced pressure. Chromatography of the residue gave 0.083 g (57% of theory) of a light-beige solid of melting point 106° C.

reactant | prop-2-yn-1-ol | 6.345 mmol, 0.445 g | C(C#C)O | C3H4O
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | [3-methyl-1-(4-methylpyridin-3-yl)-5-phenyl-1H-pyrazol-4-yl]acetic acid | 0.423 mmol, 0.130 g | CC1=NN(C(=C1CC(=O)O)C1=CC=CC=C1)C=1C=NC=CC1C | C18H17N3O2
product | Prop-2-yn-1-yl [3-methyl-1-(4-methylpyridin-3-yl)-5-phenyl-1H-pyrazol-4-yl]acetate | CC1=NN(C(=C1CC(=O)OCC#C)C1=CC=CC=C1)C=1C=NC=CC1C | C21H19N3O2
